US04072498
Sodium hydride (25.0 g. of 57% dispersion in oil, 0.6 mole) was added to a stirred solution of 4-methyl-3-phenylpyrazole (79.0 g., 0.5 mole) in tetrahydrofuran. Ethyl-2-bromoisobutyrate (136.0 g., 0.7 mole) was added and the solution was refluxed for 4 hours. The solvent was removed by evaporation and the residual ester mixture was hydrolyzed by refluxing with methanolic sodium hydroxide solution (40 g. sodium hydroxide in 600 ml. of 30% methanol-water). After cooling, the alkaline reaction solution was extracted with ether and the aqueous phase was acidified with concentrated hydrochloric acid. The solution was extracted with chloroform, and the chloroform layer was evaporated to give a crude acid mixture in which α,α,4-trimethyl-3-phenylpyrazole-1-acetic acid was the major isomer.

reactant | Sodium hydride | 0.6 mole, 25.0 g | [H-].[Na+]
reactant | 4-methyl-3-phenylpyrazole | 0.5 mole, 79.0 g | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
reactant | Ethyl-2-bromoisobutyrate | 0.7 mole, 136.0 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α,α,4-trimethyl-3-phenylpyrazole-1-acetic acid | CC(C(=O)O)(N1N=C(C(=C1)C)C1=CC=CC=C1)C | C14H16N2O2
